US05077340
1-Octyloxy-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine
The procedure of Example 3 is repeated using 1-octyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine, methacryloyl chloride and triethylamine in methylene chloride to afford the title compound as a colorless oil. Analyses by nmr, ir and ms give data consistent with the desired structure.

reactant | 1-octyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | C(CCCCCCC)ON1C(CC(CC1(C)C)O)(C)C | C17H35NO2
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Octyloxy-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine | C(CCCCCCC)ON1C(CC(CC1(C)C)OC(C(=C)C)=O)(C)C | C21H39NO3
